US09290465B2
To a solution of [3-(4-hydroxy-phenyl)-isoxazol-4-yl]-carbamic acid tert-butyl ester (50 mg, 0.18 mmol), K2CO3 (33 mg, 0.24 mmol) and tetrabutylammonium iodide (6.7 mg, 0.018 mmol) in DMF (2 mL) was added 2-bromoacetophenone (39.6 mg, 0.2 mmol). After 14 h the reaction mixture was poured into a water/ethyl acetate bilayer. The organic phase was concentrated and {3-[4-(2-oxo-2-phenyl-ethoxy)-phenyl]-isoxazol-4-yl}-carbamic acid tert-butyl ester (70 mg, 98%) was isolated from the resulting residue was purified by column chromatography.

reactant | [3-(4-hydroxy-phenyl)-isoxazol-4-yl]-carbamic acid tert-butyl ester | 0.18 mmol, 50 mg | C(C)(C)(C)OC(NC=1C(=NOC1)C1=CC=C(C=C1)O)=O | C14H16N2O4
reactant | K2CO3 | 0.24 mmol, 33 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-bromoacetophenone | 0.2 mmol, 39.6 mg | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | water ethyl acetate | O.C(C)(=O)OCC
catalyst | tetrabutylammonium iodide | 0.018 mmol, 6.7 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | {3-[4-(2-oxo-2-phenyl-ethoxy)-phenyl]-isoxazol-4-yl}-carbamic acid tert-butyl ester | 70 mg, 98% | C(C)(C)(C)OC(NC=1C(=NOC1)C1=CC=C(C=C1)OCC(C1=CC=CC=C1)=O)=O | C22H22N2O5
